US07863291B2
Pyridin-3-ylboronic acid (307 mg, 2.50 mmol), 5-bromopyrazin-2-amine (391 mg, 2.25 mmol) and dichlorobis(triphenylphosphine)-palladium(II) (88 mg, 0.13 mmol) were added to degassed dioxane (12 mL) and the mixture was stirred for 30 min. Then sodium carbonate (795 mg, 7.50 mmol) and degassed water (8 mL) were added and the reaction was heated in a closed reaction vial at 100° C. for 8 h. The reaction was allowed to stand at ambient temperature over the weekend. It was diluted into ethyl acetate (100 mL) and extracted with brine (3×25 mL). The organic layers were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (0 to 5% methanol/ethyl acetate) to afford 5-(pyridin-3-yl)pyrazin-2-amine (235 mg, 1.37 mmol, 54.6% yield). 1H NMR (400 MHz, Acetone) δ ppm 9.13 (1 H, d, J=1.51 Hz), 8.54 (1 H, d, J=1.26 Hz), 8.50 (1 H, dd, J=4.78, 1.51 Hz), 8.22-8.28 (1 H, m), 8.07 (1 H, d, J=1.26 Hz), 7.39 (1 H, ddd, J=7.87, 4.72, 0.76 Hz), 6.05 (2 H, br. s.). MS (LC/MS) R.T.=0.58; [M+H]+=173.20.

reactant | Pyridin-3-ylboronic acid | 2.50 mmol, 307 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 5-bromopyrazin-2-amine | 2.25 mmol, 391 mg | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | sodium carbonate | 7.50 mmol, 795 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 8 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.13 mmol, 88 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-(pyridin-3-yl)pyrazin-2-amine | 1.37 mmol, 235 mg, 54.6% yield | N1=CC(=CC=C1)C=1N=CC(=NC1)N | C9H8N4
